US08202865B2
Step 3: 2′-methyl-2-(methylsulfonyl)biphenyl-4-carboxylic acid
Methyl 2′-methyl-2-(methylsulfonyl)biphenyl-4-carboxylate (270 mg; 0.89 mmol; 1 eq.) was dissolved in THF (5 mL) and MeOH (5 mL). sodium hydroxide (0.89 mL; 5 M; 4.44 mmol; 5 eq.) was added and the mixture was stirred at RT overnight. Solvents were evaporated and the crude mixture was partitioned between EtOAc and water. Aqueous phase was acidified with HCl 5N solution. The two phases were separated and the organic phase was washed with brine and dried over MgSO4. After filtration and evaporation of the solvents, the title compound was isolated as a beige solid (215 mg, 83%). 1H NMR (DMSO-d6, 300 MHz) δ 13.53 (br s, 1H), 8.64 (d, J=1.8 Hz, 1H), 8.28 (dd, J=1.8, 8.0 Hz, 1H), 7.49 (d, J=7.91 Hz, 1H), 7.42-7.23 (m, 4H), 2.90 (s, 3H), 2.02 (s, 3H). LC/MS (Method B): 289.2 (M−H)−. HPLC (max plot) 97.9%; Rt 3.83 min.

reactant | Methyl 2′-methyl-2-(methylsulfonyl)biphenyl-4-carboxylate | 0.89 mmol, 270 mg, 1 eq. | CC1=C(C=CC=C1)C1=C(C=C(C=C1)C(=O)OC)S(=O)(=O)C | C16H16O4S
reactant | sodium hydroxide | 4.44 mmol, 5 M, 0.89 mL, 5 eq. | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | MeOH | 5 mL | CO | CH4O
product | 2′-methyl-2-(methylsulfonyl)biphenyl-4-carboxylic acid | CC1=C(C=CC=C1)C1=C(C=C(C=C1)C(=O)O)S(=O)(=O)C | C15H14O4S
